datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc([O-:10])c(Br)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])c(Br)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOCCn1c(N2CCC[NH+](CCCCn3cccn3)CC2)[n:10]c2ccccc21.Cc1cc([O:21][H:20])ccc1Cl>>CCOCCn1c(N2CCC[NH+](CCCCn3cccn3)CC2)[n+:10]([H:20])c2ccccc21.Cc1cc([O-:21])ccc1Cl 10=20;20,21=21",
"O=C(C(CO)c1ccccc1)[O-:10].c1ccc2cc3cc([O:21][H:20])ccc3cc2c1>>O=C(C(CO)c1ccccc1)[O:10][H:20].c1ccc2cc3cc([O-:21])ccc3cc2c1 10=20;20,21=21",
"C=C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC(C)C([NH3+])C(=O)[O:21][H:20].CCC(C)[NH2:10]>>CCC(C)C([NH3+])C(=O)[O-:21].CCC(C)[NH2+:10][H:20] 10=20;20,21=21",
"C[n+]1cccc2cc([O:21][H:20])ccc21.Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)cc(-c3ccccc3)[n:10]c12>>C[n+]1cccc2cc([O-:21])ccc21.Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)cc(-c3ccccc3)[n+:10]([H:20])c12 10=20;20,21=21",
"CC[NH:10]CC(=O)c1ccc(O)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C/C(=N/[O-:10])c1ccc([O-])cc1O.CCC(C)(O)c1cnc(CC(C)C)c([O:21][H:20])[n+]1[O-]>>C/C(=N/[O:10][H:20])c1ccc([O-])cc1O.CCC(C)(O)c1cnc(CC(C)C)c([O-:21])[n+]1[O-] 10=20;20,21=21",
"CC(C)(C)c1ccc(O)c(C[N+:21](C)(C)[H:20])c1.NC(=O)Cc1ccc[n:10]c1>>CC(C)(C)c1ccc(O)c(C[N:21](C)C)c1.NC(=O)Cc1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"C1CC[N+:21]2([H:20])C[C@@H]3C[C@@H](CN4CCCC[C@@H]34)[C@H]2C1.C[n+]1ccn(CCC[n+]2ccc(/C=N/[O-:10])cc2)c1>>C1CC[N:21]2C[C@@H]3C[C@@H](CN4CCCC[C@@H]34)[C@H]2C1.C[n+]1ccn(CCC[n+]2ccc(/C=N/[O:10][H:20])cc2)c1 10=20;20,21=21",
"CN(C1=[N:10]CCO1)c1ccccc1.COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc([NH3+])cc3)o2)cc1>>CN(C1=[N+:10]([H:20])CCO1)c1ccccc1.COc1ccc(-c2c[n:21]c(-c3ccc([NH3+])cc3)o2)cc1 10=20;20,21=21",
"C=CCCC(=O)[O-:10].[NH3+]CC/C=C/C(=O)[O:21][H:20]>>C=CCCC(=O)[O:10][H:20].[NH3+]CC/C=C/C(=O)[O-:21] 10=20;20,21=21",
"CCCP(=O)(CCC)[O:21][H:20].N#CC(C#N)=[N:10]Nc1ccccc1Br>>CCCP(=O)(CCC)[O-:21].N#CC(C#N)=[N+:10](Nc1ccccc1Br)[H:20] 10=20;20,21=21",
"O=C(C(=O)[O-:10])C(c1ccccc1)c1ccccc1.O=C(Nc1ccccc1)O[N:21](C(=O)c1ccccc1)[H:20]>>O=C(C(=O)[O:10][H:20])C(c1ccccc1)c1ccccc1.O=C(Nc1ccccc1)O[N-:21]C(=O)c1ccccc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].c1nc(C[S-:10])c[nH]1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].c1nc(C[S:10][H:20])c[nH]1 10=20;20,21=21",
"CCOc1ccc(C(=O)[O-:10])cc1.Cn1c(CCl)nc2c([O:21][H:20])ccc(O)c21>>CCOc1ccc(C(=O)[O:10][H:20])cc1.Cn1c(CCl)nc2c([O-:21])ccc(O)c21 10=20;20,21=21",
"C/C(=N\[O:21][H:20])c1ccccc1.Nc1cc[n:10]c([O-])n1>>C/C(=N\[O-:21])c1ccccc1.Nc1cc[n+:10]([H:20])c([O-])n1 10=20;20,21=21",
"[H][C:21](C(C)=O)(C(C)=O)[H:20].c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH:10]2)c1>>[H][C-:21](C(C)=O)C(C)=O.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CCCC[Se](=O)[O:21][H:20].C[NH+]1C[C@@H](C(=O)[O-:10])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12>>CCCC[Se](=O)[O-:21].C[NH+]1C[C@@H](C(=O)[O:10][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12 10=20;20,21=21",
"COc1cc(OC)nc([N-:10]S(=O)(=O)c2ccc(O)cc2)n1.O=C([O-])c1cc[n+:21]([H:20])c2ccccc12>>COc1cc(OC)nc([N:10](S(=O)(=O)c2ccc(O)cc2)[H:20])n1.O=C([O-])c1cc[n:21]c2ccccc12 10=20;20,21=21",
"CC(Cl)C[N:10](C)C.Cc1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20]>>CC(Cl)C[N+:10](C)(C)[H:20].Cc1ccc([N+](=O)[O-])cc1C(=O)[O-:21] 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH+:21](C(C)C)[H:20])CC1.C[C@H]1CC[C@@H](C(=O)[O-:10])CC1>>CC(C)[NH+]1CCC(N[NH:21]C(C)C)CC1.C[C@H]1CC[C@@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"CCCCC[N:10](CC(O)CC)CC(O)CC.Oc1ccc(Cl)cc1C[N+:21]1([H:20])CCOCC1>>CCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].Oc1ccc(Cl)cc1C[N:21]1CCOCC1 10=20;20,21=21",
"CC(C[NH3+])[Se-:10].CC[NH+:21](c1ccccc1)[H:20]>>CC(C[NH3+])[Se:10][H:20].CC[NH:21]c1ccccc1 10=20;20,21=21",
"C[NH+](C)CCCCNC(=O)/C=N/[O-:10].Cc1ccc(C(=O)[O:21][H:20])cc1C>>C[NH+](C)CCCCNC(=O)/C=N/[O:10][H:20].Cc1ccc(C(=O)[O-:21])cc1C 10=20;20,21=21",
"CCC(CO)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCC(CO)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)(C)S/C(c1ccccc1)=[NH+:21]/[H:20].C[C@H]1CC[C@@H]2CCC[N:10]21>>CC(C)(C)SC(c1ccccc1)=[NH:21].C[C@H]1CC[C@@H]2CCC[N+:10]21[H:20] 10=20;20,21=21",
"CC(=O)c1cc[n+:21]([H:20])cc1.c1cc(C2CCCCN2)c[n:10]c1>>CC(=O)c1cc[n:21]cc1.c1cc(C2CCCCN2)c[n+:10]([H:20])c1 10=20;20,21=21",
"COc1ccccc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:10])c1ccccc1O>>COc1ccccc1/C(=N/CCC[N:21](C)C)c1ccccc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:10][H:20])c1ccccc1O 10=20;20,21=21",
